US06043269
(+,-) cis 7-Benzyloxy 4-[4-(butylaminoethyloxy)-phenyl]-3-phenyl-chroman
From (+,-) cis 7-Benzyloxy4-[4-(2-chloroethyloxy)-phenyl]-3-phenyl-chroman (235 mg, 0.5 mmol) and butylamine (183 mg, 2.5 mmol). The evaporated product was precipitated from ether-petrolether to give 160 mg of material, which was chromatographed as described above.

reactant | (+,-) cis 7-Benzyloxy4-[4-(2-chloroethyloxy)-phenyl]-3-phenyl-chroman | 0.5 mmol, 235 mg | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCl | C30H27ClO3
reactant | butylamine | 2.5 mmol, 183 mg | C(CCC)N | C4H11N
product | (+,-) cis 7-Benzyloxy 4-[4-(butylaminoethyloxy)-phenyl]-3-phenyl-chroman | 160 mg | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCNCCCC | C34H37NO3
